US07750002B2
Amine preparation: a mixture of 1-BOC-piperazine (2 g), 4-pyridine carboxaldehyde (1.26 g), sodium triacetoxyborohydride (2.96 g) and acetic acid (0.6 mL) was stirred together in dry 1,2-dichloroethane (15 mL) at room temperature. After 4 h the reaction was quenched with saturated NaHCO3 solution and extracted with DCM, dried (Na2SO4), filtered and concentrated in vacuo to give 4-pyridin-4-ylmethyl-piperazine-1-carboxylic acid tert-butyl ester (3 g). Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, which was isolated as the hydrochloride salt.

reactant | 1-BOC-piperazine | 2 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 4-pyridine carboxaldehyde | 1.26 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 2.96 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 4-pyridin-4-ylmethyl-piperazine-1-carboxylic acid tert-butyl ester | 3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=NC=C1 | C15H23N3O2
